US07157447B2
(R)-N-(2-(2-(Azidomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide.
To a solution of intermediate 194, (R)-(1-(2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl methanesulfonate (0.150 g, 0.239 mmol) in DMF (10 mL) was added sodium azide (0.019 g, 0.287 mmol). The resulting mixture was stirred at 50° C. for 6 h. Water (50 mL) was then added and the organic material was extracted with ethyl acetate (2×50 mL). The combined organic extracts were washed with H2O (50 mL), dried (MgSO4), filtered and concentrated in vacuo to afford the title compound (0.125 g, 91% yield). LCMS (M+H)+ m/z 576.

reactant | (R)-(1-(2-((3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamido)methyl)-5-fluorophenyl)-5-oxopyrrolidin-2-yl)methyl methanesulfonate | 0.239 mmol, 0.150 g | CS(=O)(=O)OC[C@@H]1N(C(CC1)=O)C1=C(C=CC(=C1)F)CNC(=O)C=1N=C2C(OCCN2C(C1OCC1=CC=CC=C1)=O)(C)C | C30H33FN4O8S
reactant | sodium azide | 0.287 mmol, 0.019 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (R)-N-(2-(2-(Azidomethyl)-5-oxopyrrolidin-1-yl)-4-fluorobenzyl)-3-(benzyloxy)-9,9-dimethyl-4-oxo-4,6,7,9-tetrahydropyrimido[2,1-c][1,4]oxazine-2-carboxamide | 0.125 g, 91% yield | N(=[N+]=[N-])C[C@@H]1N(C(CC1)=O)C1=C(CNC(=O)C=2N=C3C(OCCN3C(C2OCC2=CC=CC=C2)=O)(C)C)C=CC(=C1)F | C29H30FN7O5
